US03941815
In the same apparatus as in Example 1, 10.0 g of 1,4-naphthoquinone was added to 40 g of fuming sulfuric acid of a sulfur trioxide content of 20 percent maintained at 0° to 5°C, then added thereto 30 g of a mixed acid consisting of 70 percent by weight of sulfuric acid, 25 percent by weight of nitric acid and 5 percent by weight of water dropwise over 1 hour while maintaining the reaction temperature at 15° to 20°C. The reaction mixture was maintained at 15° to 20°C for additional 3 hours and then processed in the same manner as in Example 6 to obtain 11.0 g of crude 5-nitro-1,4-naphthoquinone of a melting point of 153°C. The crude product was purified in the same manner as in Example 6 to obtain the same result as in Example 1.

reactant | 1,4-naphthoquinone | 10.0 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | sulfuric acid | 40 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 5-nitro-1,4-naphthoquinone | 11.0 g | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
